US03994871
7. Z-Ser(But)-Leu-OMe
2.75 ml of triethylamine and 2.63 ml of chloroformic acid isobutyl ester are added to 5.9 g of Z-Ser(But)-OH in 20 ml of ethyl acetate at -10°C. After 10 minutes, 4.0 g of H-Leu-OMe-HCl and 3.05 ml of triethylamine are added. After stirring for 11/2 hours in an ice bath, the mixture is extracted by shaking with phosphoric acid and sodium bicarbonate solution and after drying over sodium sulphate the ethyl acetate is evaporated completely. 8.2 g of a waxy mass are obtained. Melting point (after crystallisation from hexane): 56°-58°C.

reactant | triethylamine | 2.75 ml | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid isobutyl ester | 2.63 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Z-Ser(But)-OH | 5.9 g | N([C@@H](COC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C15H21NO5
reactant | H-Leu-OMe-HCl | 4.0 g | N[C@@H](CC(C)C)C(=O)OC.Cl
reactant | triethylamine | 3.05 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Z-Ser(But)-Leu-OMe | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C22H34N2O6
